US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-(4-{N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]-N-(pyridin-4-ylmethyl)amino}butyl)-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione dihydrochloride
(2-Methyl-4-oxo-4H-furo[3,2-c]pyridin 5-yl)acetaldehyde(0.18 g) and acetic acid(0.1 ml) were added to a 1,2-dichloroethane solution (5 ml) of 1-ethyl-3,3,5-trimethyl-7-{4-[(pyridin-4-ylmethyl)amino]butyl}-1,5-dihydrobenzo[b][1,4]diazepine 2,4-dione(0.38 g). The mixture was stirred for 30 minutes at room temperature. sodium triacetoxyborohydride(0.32 g) was added to the mixture, and the mixture was stirred at room temperature overnight. The reaction mixture was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=1:0→9:1). The purified product was condensed under reduced pressure. A 6N-hydrogen chloride ethyl acetate solution(1.0 ml) was added to an ethyl acetate solution (20 ml) of the residue, and the liquid was stirred at room temperature. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(0.43 g) as a white solid.

reactant | (2-Methyl-4-oxo-4H-furo[3,2-c]pyridin 5-yl)acetaldehyde | 0.18 g | CC1=CC=2C(N(C=CC2O1)CC=O)=O | C10H9NO3
reactant | 1-ethyl-3,3,5-trimethyl-7-{4-[(pyridin-4-ylmethyl)amino]butyl}-1,5-dihydrobenzo[b][1,4]diazepine 2,4-dione | 0.38 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCCCNCC2=CC=NC=C2 | C24H32N4O2
reactant | sodium triacetoxyborohydride | 0.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen chloride ethyl acetate | 1.0 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-3,3,5-trimethyl-7-(4-{N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]-N-(pyridin-4-ylmethyl)amino}butyl)-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione dihydrochloride | 0.43 g | Cl.Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCCCN(CC2=CC=NC=C2)CCN2C(C1=C(C=C2)OC(=C1)C)=O | InChI=1S/C34H41N5O4.2ClH/c1-6-39-28-11-10-25(22-29(28)36(5)32(41)34(3,4)33(39)42)9-7-8-17-37(23-26-12-15-35-16-13-26)19-20-38-18-14-30-27(31(38)40)21-24(2)43-30;;/h10-16,18,21-22H,6-9,17,19-20,23H2,1-5H3;2*1H
